US04583826
A mixture of 930 mg of lithium aluminium hydride in 100 ml of absolute tetrahydrofuran was placed at 0° C. in a sulphonation flask and treated within 20 minutes with a solution of 8.2 g of 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxaldehyde in 100 ml of absolute tetrahydrofuran. After completion of the addition, the mixture was stirred for a further 2 hours while warming to room temperature, subsequently cautiously quenched with 100 ml of 1N sulphuric acid and extracted three times with 200 ml of methylene chloride each time. The organic phases were washed twice with 100 ml of water each time, dried over magnesium sulphate and concentrated. There were obtained 7.90 g (96%) of 4'-(trans-4-pentylcyclohexyl)-4-biphenylmethanol as a colourless, crystalline mass (purity 99.4% in accordance with gas chromatography) which was used in the following step without further purification. M.p. 180.4° C.; Rf value [petroleum ether/ethyl acetate (9:1)]: educt 0.70, product 0.30.

reactant | lithium aluminium hydride | 930 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxaldehyde | 8.2 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C24H30O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4'-(trans-4-pentylcyclohexyl)-4-biphenylmethanol | 7.90 g, 96% | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CO | C24H32O
